data/oMe_Silver.jsonl
{"reaction_id": "NR-053_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C_3-CC_4-C(F)(F)F","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","OO"],"products_smiles": ["Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)cc(C)c(CC)c1(C(F)(F)F)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
{"reaction_id": "NR-207_1-C(C)C_2-c1ccc(Cl)cc1_3-CCCCCC_4-c1ccc(C)c(C)c1","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(C(C)C)(c1ccc(Cl)cc1)","C(CCCCCC)(c1ccc(C)c(C)c1)O"],"products_smiles": ["OC(C(C)C)(c1ccc(Cl)cc1).C(CCCCCC)(=O)c1ccc(C)c(C)c1"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(CCCCCC)(c1ccc(C)c(C)c1)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCCCC)(c1ccc(C)c(C)c1)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(CCCCCC)(c1ccc(C)c(C)c1)[O][Al-](OC(C)C)([O+]=C(C(C)C)(c1ccc(Cl)cc1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(C)C)(c1ccc(Cl)cc1).C(CCCCCC)(=O)c1ccc(C)c(C)c1","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
